US08258130B2
A mixture of 3-methyl-pyrrolo[3,2-b]pyridin-1-yl amine (75% pure) (240 mg, <1.63 mmol), 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (379 mg, 1.63 mmol), HATU (744 mg, 1.96 mmol) and DIPEA (388 mg, 4.89 mmol) in DMF (5 mL) is heated at 1500 C. for 1 h. The reaction is quenched with water, extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and concentrated. The residue is chromatographed through silica gel eluting with 10% MeOH in DCM. The resulting product is recrystallized with ether to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[3,2-b]pyridin-1-yl)-amide (197 mg, 44%). MS: 362 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.14 (s, 1H), 8.40 (d, 1H), 8.36 (d, 1H), 8.22 (d, 1H), 7.85(d, 1H), 7.55 (q 1H), 7.47 (s, 1H), 7.25-7.34 (m, 2H), 2.83 (s, 3H), 2.42(s, 3H). IC50=2 nM.

reactant | 3-methyl-pyrrolo[3,2-b]pyridin-1-yl amine | <1.63 mmol, 240 mg | CC1=CN(C=2C1=NC=CC2)N | C8H9N3
reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.63 mmol, 379 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HATU | 1.96 mmol, 744 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.89 mmol, 388 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[3,2-b]pyridin-1-yl)-amide | 197 mg, 44% | CC1=CN(C=2C1=NC=CC2)NC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C | C20H16FN5O
